US05086055
3-Methyl-5-[2-[4-(3,4,5-Trimethoxyphenyl)-1-Piperazinyl]Ethyl]-2-Oxazolidinone
This compound was prepared according to the procedure of Example 2. A mixture of 3.8 g (0.015 mol) of 1-(3,4,5-trimethoxyphenyl)piperazine, 2.5 g (0.015 mol) of 5-(2-chloroethyl)-3-methyl-2-oxazolidinone, 5.3 g (0.05 mol) of anhydrous sodium carbonate and 0.3 g of potassium iodide in 100 mL of 1-butanol gave 2.4 g (42%) of white solid, mp 86°-88° C. (2-propanol).

reactant | 1-(3,4,5-trimethoxyphenyl)piperazine | 0.015 mol, 3.8 g | COC=1C=C(C=C(C1OC)OC)N1CCNCC1 | C13H20N2O3
reactant | 5-(2-chloroethyl)-3-methyl-2-oxazolidinone | 0.015 mol, 2.5 g | ClCCC1CN(C(O1)=O)C | C6H10ClNO2
reactant | sodium carbonate | 0.05 mol, 5.3 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | 0.3 g | [I-].[K+]
solvent | 1-butanol | 100 mL | C(CCC)O | C4H10O
solvent | 2-propanol | CC(C)O | C3H8O
product | 3-Methyl-5-[2-[4-(3,4,5-Trimethoxyphenyl)-1-Piperazinyl]Ethyl]-2-Oxazolidinone | 2.4 g, 42% | CN1C(OC(C1)CCN1CCN(CC1)C1=CC(=C(C(=C1)OC)OC)OC)=O | C19H29N3O5
